US08293913B2
25.4 (3aS,6aS)-ethyl-1-(3-(3-fluorophenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate
0.255 of g 3-(3-fluorophenylsulfonyl)-8-iodoquinoline (0.617 mmol), 0.114 g of (3aS,6aS)-ethyl hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate (0.617 mmol), 0.404 g of cesium carbonate (1.234 mmol), 0.014 g of palladium acetate (0.062 mmol) and 0.029 g of X-Phos (2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl, 0.062 mmol) in 5 mL toluene were stirred at 90° C. for 8 h. The reaction mixture was directly purified via silica gel chromatography (eluent toluene/methanol 10/1 +2.5% triethylamine). Fractions containing the product were combined and the solvent was evaporated to yield 0.271 g of the desired product which was used in example 26 without additional purification.

reactant | 3-(3-fluorophenylsulfonyl)-8-iodoquinoline | 0.617 mmol | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9FINO2S
reactant | (3aS,6aS)-ethyl hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate | 0.617 mmol, 0.114 g | N1[C@H]2[C@@H](CC1)CN(C2)C(=O)OCC | C9H16N2O2
reactant | cesium carbonate | 1.234 mmol, 0.404 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | X-Phos | 0.062 mmol, 0.029 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.062 mmol, 0.014 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3aS,6aS)-ethyl-1-(3-(3-fluorophenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate | 0.271 g | C(C)OC(=O)N1C[C@H]2N(CC[C@H]2C1)C=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC(=CC=C1)F | C24H24FN3O4S
